US07994314B2
Mirtazapine
The crude 10,11-dihydro-5H-benzo[e]pyrido[2,3-b]azepine-10-yl-(2-chloroethyl)-methylamine obtained (some starting material present) was dissolved in DMF (10 ml). K2CO3 (800 mg) and Kl (500 mg) were added. The mixture was refluxed for 4 hours. Dilution with water (100 ml) and extraction with dichloromethane (2×100 ml) gave after drying with Na2SO4 and evaporation crude racemic mirtazapine as an oil.

reactant | 10,11-dihydro-5H-benzo[e]pyrido[2,3-b]azepine-10-yl-(2-chloroethyl)-methylamine | N1=CC=CC2=C1NC(C1=C(C2)C=CC=C1)N(C)CCCl | C16H18ClN3
reactant | K2CO3 | 800 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Mirtazapine | CN1CCN2C3=C(C=CC=N3)CC=4C=CC=CC4C2C1 | C17H19N3
